// Generated for: spectre (Apr 19 14:34:30 2013 )
// Library name: gsclib045_lvt
// Cell name: INVX2
// View name: schematic

simulator lang=spectre

subckt INVX2 A Y VDD VSS
mp0 (Y A VDD VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mn0 (Y A VSS VSS) g45n1lvt w=(520n) l=45n nf=1 as=72.8f ad=72.8f \
        ps=1.32u pd=1.32u nrd=269.231m nrs=269.231m sa=140n sb=140n \
        sd=160n sca=98.28759 scb=0.08111 scc=0.01166 m=(1)
ends INVX2
// End of subcircuit definition.

